US09144239B2
Step 4: Preparation of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8R,9S)-7,8-dihydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate (compound 191)
To a solution of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-7,8-dibenzyloxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate (3.8 g, 6.49 mmol) in EtOAc (10 mL) in a 50 mL high pressure reactor with a stir bar was added 5% Pd/C (500 mg, 0.235 mmol). After the reactor was sealed, it was evacuated and purged with H2 (4×), and then charged to ˜600 psi of H2 at room temperature. The reaction mixture was warmed to 45° C. and stirred for 5 h. The reaction mixture was filtered through a pad of Celite® and the filtrate concentrated to yield the title compound as a white foam (2.63 g, 100%): 1H NMR (400 MHz, CDCl3) δ 5.25 (dd, J=8.7, 2.8 Hz, 1H), 4.94-4.76 (m, 1H), 4.26 (dd, J=12.3, 2.9 Hz, 1H), 4.06 (dd, J=10.7, 1.3 Hz, 1H), 3.91 (dd, J=12.3, 8.7 Hz, 1H), 3.62-3.54 (m, 1H), 3.54-3.38 (m, 2H), 3.15 (d, J=4.0 Hz, 1H), 2.96 (d, J=3.5 Hz, 1H), 1.51 (s, 18H), 1.46 (d, J=6.3 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 168.63, 152.70, 83.18, 79.34, 77.96, 74.40, 74.25, 73.02, 58.54, 27.98, 18.60; ESIMS m/z 428.5 ([M+Na]+).

reactant | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-7,8-dibenzyloxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate | 6.49 mmol, 3.8 g | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)=O | C32H43NO9
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.235 mmol, 500 mg | [Pd] | Pd
product | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8R,9S)-7,8-dihydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]carbamate | 2.63 g, 100% | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)O)O)C)=O | C18H31NO9
